US05830901
To a solution of (E)-4-[2-(4-fluorophenyl)ethenyl]pyridine (18.75 g, 94.2 mmol) in dimethylformamide (30 ml) at 90° C. was added benzyl bromide (11.9 ml, 100 mmol) and the reaction stirred at 90° C. for 1 hour. The reaction was cooled to room temperature, diluted with ethanol (400 ml) and sodium borohydride (4 g, 105 mmol) added in portions. The reaction was stirred at room temperature for 2 hours, after which time the solvent was evaporated to a slurry. Methanol was added, and the resultant solid filtered and dried to yield (E)-1-benzyl-4-[2-(4-fluorophenyl)ethenyl]-1,2,3,6-tetrahydropyridine (12 g, 44%) as a white solid. δH (CDCl3) 2.41 (2H, br s, tetrahydropyridinyl CH2), 2.68 (2H, t, J 5.8 Hz, tetrahydropyridinyl CH2), 3.14 (2H, br s, tetrahydropyridinyl CH2), 3.63 (2H, s, NCH2Ar), 5.80 (1H, br s, tetrahydropyridinyl 5-CH), 6.40 (1H, d, J 16.2 Hz, ArCHCHC), 6.69 (2H, d, J 16.2 Hz, ArCHCHC), 6.96-7.02 (2H, m, ArH) and 7.25-7.39 (7H, m, ArH).

reactant | (E)-4-[2-(4-fluorophenyl)ethenyl]pyridine | 94.2 mmol, 18.75 g | FC1=CC=C(C=C1)/C=C/C1=CC=NC=C1 | C13H10FN
reactant | benzyl bromide | 100 mmol, 11.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium borohydride | 105 mmol, 4 g | [BH4-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | (E)-1-benzyl-4-[2-(4-fluorophenyl)ethenyl]-1,2,3,6-tetrahydropyridine | 12 g, 44% | C(C1=CC=CC=C1)N1CCC(=CC1)\C=C\C1=CC=C(C=C1)F | C20H20FN
